US06316637B1
A solution of 4-bromo-5-aminobenzimidazole (180 mg, 0.84 mmol), tetramethyltin (330 mg, 2.4 mmol) and bis(triphenylphosphine)palladium (II) chloride (20 mg) in 5 ml of anhydrous DMF was placed in sealed tube and stirred for 12 h at 145° C. The reaction mixture was concentrated in vacuo, yielding an oily residue which was subjected to column chromatographic separation (NH3 sat'd 10% MeOH/EtOAc) to yield 140 mg (0.83 mmol, >95 %) of 4-methyl-5-aminobenzimidazole.

reactant | 4-bromo-5-aminobenzimidazole | 0.84 mmol, 180 mg | BrC1=C(C=CC=2N=CNC21)N | C7H6BrN3
reactant | tetramethyltin | 2.4 mmol, 330 mg | C[Sn](C)(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 20 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-methyl-5-aminobenzimidazole | 0.83 mmol, 140 mg, >95 % | CC1=C(C=CC=2N=CNC21)N | C8H9N3
